US08420812B2
3-(5-Phenyl-pent-1-ynyl)-pyridine
This product was prepared from toluene-4-sulfonic acid pyridin-3-yl ester and pent-4-ynyl-benzene following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/EtOAc 8:2; yield (80 mg, 72%); 1H NMR δ (CDCl3): 8.62-8.63 (m, 1H), 8.48-8.46 (m, 1H), 7.68-7.64 (m, 1H), 7.21-7.17 (m, 6H), 2.76 (t, J=7.11 Hz, 2H), 2.4 (t, J=7.10 Hz, 2H), 1.91 (p, J=7.12 Hz, 2H); LCMS m/z: 221.

reactant | toluene-4-sulfonic acid pyridin-3-yl ester | N1=CC(=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C12H11NO3S
reactant | pent-4-ynyl-benzene | C(CCC#C)C1=CC=CC=C1 | C11H12
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 3-(5-Phenyl-pent-1-ynyl)-pyridine | C1(=CC=CC=C1)CCCC#CC=1C=NC=CC1 | C16H15N
